US08748650B2
Under a nitrogen atmosphere, a solution prepared by dissolving 571 mg (2 mmol) of N-phenoxycarbonyl-L-phenylalanine and 184 mg (2 mmol) of phenol in 20 mL of 2-butanone was charged into a two-necked round bottom flask having a volume of 100 mL and mounted with a Dimroth condenser, and was then stirred at 80° C. for 8 hours. The fact that N-carboxy-phenylalanine anhydride was obtained in a yield of 99% or more was confirmed by subjecting the reaction mixture to NMR determination.

reactant | N-phenoxycarbonyl-L-phenylalanine | 2 mmol, 571 mg | O(C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H15NO4
reactant | phenol | 2 mmol, 184 mg | C1(=CC=CC=C1)O | C6H6O
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | N-carboxy-phenylalanine anhydride | yield of 99% or more | C(=O)(O)N[C@@H](CC1=CC=CC=C1)C(=O)OC([C@@H](NC(=O)O)CC1=CC=CC=C1)=O | C20H20N2O7
